US08114872B2
1-(6-Fluoro-4-iodo-pyridin-3-yloxy)-propan-2-one
Cool a suspension of 6-fluoro-4-iodo-pyridin-3-ol (1.6 g, 6.69 mmol) and K2CO3 (2.8 g, 20.1 mmol) in DMF (10 mL) to 0° C. in an ice bath under nitrogen. Add chloroacetone (0.78 g, 8.03 mmol) during a period of 30 min. Stir the mixture at RT for 1.5 h. Add water and extract with ethyl acetate. Wash the solution with aqueous saturated sodium chloride. Dry over sodium sulfate. Concentrate the solution in vacuo. Purify by column chromatography (hexane to 10% ethyl acetate in hexane) to afford the title compound (1.5 g, 76%). MS (ES) m/z 296 [M+1]+.

reactant | 6-fluoro-4-iodo-pyridin-3-ol | 6.69 mmol, 1.6 g | FC1=CC(=C(C=N1)O)I | C5H3FINO
reactant | K2CO3 | 20.1 mmol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetone | 8.03 mmol, 0.78 g | ClCC(C)=O | C3H5ClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(6-Fluoro-4-iodo-pyridin-3-yloxy)-propan-2-one | 1.5 g, 76% | FC1=CC(=C(C=N1)OCC(C)=O)I | C8H7FINO2
